US09260400B2
1-[2-(3-Methoxyphenoxy) ethyl]-4-[3-(3-pyridyl)-2-pyridyl]piperazine
The title compound was prepared starting from 1-(2-chloroethoxy)-3-methoxybenzene and 1-[3-(3-pyridyl)-2-pyridyl]piperazine following the procedure outlined for Example 15. 1H NMR (CDCl3): δ 2.48 (br s, 4H), 2.77 (t, 2H, J=6.0 Hz), 2.88 (app t, 4H), 3.78 (s, 3H), 4.06 (t, 2H, J=6.0 Hz), 6.45-6.52 (m, 3H), 7.04-7.10 (m, 2H) 7.33-7.37 (m, 1H), 7.46 (dd, 1H, J=1.9, 7.4 Hz), 7.97 (dt, 1H, J=1.9, 7.7 Hz), 8.28 (dd, 1H, J=1.9, 4.9 Hz), 8.56 (dd, 1H, J=1.7, 4.9 Hz), 8.82 (d, 1H, J=1.7 Hz). GC-MS m/z 391 (M+1, 3), 390 (M+, 3), 267 (35), 253 (100), 198 (29), 184 (63).

reactant | 1-(2-chloroethoxy)-3-methoxybenzene | ClCCOC1=CC(=CC=C1)OC | C9H11ClO2
reactant | 1-[3-(3-pyridyl)-2-pyridyl]piperazine | N1=CC(=CC=C1)C=1C(=NC=CC1)N1CCNCC1 | C14H16N4
product | 1-[2-(3-Methoxyphenoxy) ethyl]-4-[3-(3-pyridyl)-2-pyridyl]piperazine | COC=1C=C(OCCN2CCN(CC2)C2=NC=CC=C2C=2C=NC=CC2)C=CC1 | C23H26N4O2
